US07834039B2
Azetidine-3-carboxylic acid (3.72 g, 36.8 mmol) (Synchem) was dissolved in acetic acid (16.03 ml, 280 mmol) and methanol (2 ml). This was added to a stirred suspension of 4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)benzaldehyde (12 g, 35.0 mmol) in MeOH (600 ml). The reaction was stirred for about 18 h. Sodium cyanoborohydride (5.50 g, 88 mmol) was added and the reaction stirred for about 4 h. The reaction was cooled with an ice bath and the precipitate was collected by vacuum filtration and washed with ice cold methanol and then ether. TLC showed impurities still present. The solid was dissolved in 1:1 EtOAc /(6:3:1 CHCl3/MeOH/NH4OH) with a little extra added NH4OH. Chromatography over silica gel in a mixture of 1:1 EtOAc/(6:3:1 CHCl3/MeOH/NH4OH) increasing to all 6:3:1 CHCl3/MeOH/NH4OH eluted the product. The fractions were evaporated to dryness to afford a colorless film/oil. Methanol was added and the mixture swirled but this gave low recovery on filtration. The mixture was dissolved in methanol. and the filtrate evaporated to dryness. The residue was resuspended in the minimum amount of methanol, water was added and the mixture filtered, washed with water and then ether. The residue was dried under vacuum at ambient temperature and then under vacuum at about 60° C. to remove trace methanol to afford 1-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)benzyl)azetidine-3-carboxylic acid (8.3 g, 19.40 mmol, 55.4% yield) as a white solid: LCMS (Table 1, Method a) Rt=2.94 min.; MS m/z: 428.31, 430.27 (M+H)+; mp 194.8-195.9° C.; 1H NMR (400 MHz, DMSO) δ ppm 8.12 (d, J=8.34 Hz, 2H), 8.06 (d, J=2.13 Hz, 1H), 8.00 (dd, J=8.67, 2.15 Hz, 1H), 7.54 (d, J=8.36 Hz, 2H), 7.39 (d, J=9.06 Hz, 1H), 4.88-4.77 (m, 1H), 3.67 (s, 2H), 3.48-3.38 (m, 2H), 3.29-3.19 (m, 3H), 1.35 (d, J=6.02 Hz, 6H).

reactant | Azetidine-3-carboxylic acid | 36.8 mmol, 3.72 g | N1CC(C1)C(=O)O | C4H7NO2
reactant | acetic acid | 280 mmol, 16.03 ml | C(C)(=O)O | C2H4O2
reactant | 4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)benzaldehyde | 35.0 mmol, 12 g | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(C=O)C=C1 | C18H15ClN2O3
reactant | Sodium cyanoborohydride | 88 mmol, 5.50 g | C(#N)[BH3-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
solvent | MeOH | 600 ml | CO | CH4O
product | 1-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)benzyl)azetidine-3-carboxylic acid | 19.40 mmol, 8.3 g, 55.4% yield | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(CN2CC(C2)C(=O)O)C=C1 | C22H22ClN3O4
